### PR TITLE
feat: adds a simple `Http` library to `Std`

### PR DESCRIPTION
**Pull request by algebraic-dev**
This PR adds a simple `Http` library to `Std`.

### CODE REVIEW

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 4881c3042e8d205080b19779d8dedfc672da3cd0 --onto 4379002d0582ae96d7fc6ccf5921ff4e9aa7239e`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-09-21 22:08:49)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase eabd7309b74f13cc12d0ab03d4826f34e3e49c0d --onto 0807f73171ca8f765c11ef37d69fd95e6613a878`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-09-24 00:27:54)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 5ef7b45afaedd794fb39b0fbd70924b573694a00 --onto ac0b82933f6eac9914011ca2caf38d0e4e991160`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-09-25 13:54:11)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 486d93c5fd4ec0e1735554f9143a66327ca3f5a9 --onto 54c6efea95a0d478f2659632749035962b1f4d8d`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-10-07 18:22:48)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase aa86d95c0897a5aca9535dad6ffb1fd0f20cd5f1 --onto 14ff08db6f651775ead432d367b6b083878bb0f9`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-10-14 17:00:51)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase f9adafe54d5070acbd270643f71b8455ca8c8d68 --onto 705084d9ba258dec704af428d7ce2444525f9ffb`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-10-31 05:29:24)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase f9adafe54d5070acbd270643f71b8455ca8c8d68 --onto 1ce05b2a179eac8a902995c0caddc609c0169c49`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-01 17:03:01)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase f9adafe54d5070acbd270643f71b8455ca8c8d68 --onto de073706c5446208065c7479211a3737ff99af25`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-15 02:58:43)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase f9adafe54d5070acbd270643f71b8455ca8c8d68 --onto 5306a3469d20caa5f9d80384a5c1effdb14e9c67`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-23 06:25:53)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase f9adafe54d5070acbd270643f71b8455ca8c8d68 --onto b0e6db322421ce368999f08870fd747e45242f86`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-27 01:48:28)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 16508196e0dfa0702868333eecf6f6dc8b58d632 --onto a4f9a793d9bdf3f3d4b69f3ebcfa7cd347df9d1a`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-30 05:08:30)
- ✅ Mathlib branch [lean-pr-testing-10478](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-10478) has successfully built against this PR. (2025-12-03 02:25:07) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/19879041369)
- ✅ Mathlib branch [lean-pr-testing-10478](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-10478) has successfully built against this PR. (2025-12-03 06:06:32) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/19883025823)
- ✅ Mathlib branch [lean-pr-testing-10478](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-10478) has successfully built against this PR. (2025-12-05 01:16:38) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/19947958776)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 856825a4d2741f2de6d2d21454c20b1ba78b671b --onto 455fd0b4488e2adc85f825a52e2ee7d944a5740a`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-12-05 21:44:02)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase c9b8508f6b6868be1857d207edf9ac01d764f8d2 --onto 62f2f9229356039356c0469a46d8ecd77be88e2a`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-12-09 00:41:29)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase c9b8508f6b6868be1857d207edf9ac01d764f8d2 --onto 19e1fe55f33a8aadc4243da32828b70a4b4677cc`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-12-11 19:12:14)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase e2617903f81f2f9ffc6c0b7a06cc91678c546305 --onto 0708024c4649f11da1276d8b6d4345972a9dc57c`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-12-17 18:48:51)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase f21f8d96f97989d3a34148329a158e94b220314b --onto 0708024c4649f11da1276d8b6d4345972a9dc57c`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-12-18 01:05:39)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase f21f8d96f97989d3a34148329a158e94b220314b --onto 4e656ea8e9273833b7cb06c720bdefbb5b9dbc87`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-12-20 01:15:44)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase f21f8d96f97989d3a34148329a158e94b220314b --onto 13c88f960f40b7c163b99e742010bbbbdbe8bba7`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-12-24 01:43:46)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase f21f8d96f97989d3a34148329a158e94b220314b --onto b3b33e85d38317eca940e4a9653660e9f8b5682a`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-12-27 00:01:31)
- ❗ Mathlib CI can not be attempted yet, as the `nightly-testing-2025-12-29` tag does not exist there yet. We will retry when you push more commits. If you rebase your branch onto `nightly-with-mathlib`, Mathlib CI should run now. You can force Mathlib CI using the `force-mathlib-ci` label. (2026-01-10 00:04:12)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 5bb7f37645c1bcd822993543b32b95c78107b33a --onto e56351da7ae15673a5bc2b83e7fb70e1fbd988ca`. You can force Mathlib CI using the `force-mathlib-ci` label. (2026-01-12 19:29:29)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 5bb7f37645c1bcd822993543b32b95c78107b33a --onto 3dfd125337305c9de6ddcc7c0330c50f0e39fb8e`. You can force Mathlib CI using the `force-mathlib-ci` label. (2026-01-18 18:46:44)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 5bb7f37645c1bcd822993543b32b95c78107b33a --onto e9a1c9ef63d8e53803c16077f03e2dacd4a890bd`. You can force Mathlib CI using the `force-mathlib-ci` label. (2026-01-21 04:20:58)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 5bb7f37645c1bcd822993543b32b95c78107b33a --onto 9063adbd51334f68608bad14cd298e6315e718d4`. You can force Mathlib CI using the `force-mathlib-ci` label. (2026-01-21 19:23:55)

File: src/Std/Internal/Http/Data/Body.lean [hunk 1]
```diff
@@ -0,0 +1,75 @@
...
+  | _ => pure ()
+
+instance : Coe String Body where
+  coe := .bytes ∘ String.toUTF8
+
+instance : Coe Body.ByteStream Body where
+  coe := .stream
+
+instance : Coe Body Body where
+  coe := id
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/Body.lean]: Is this needed?

File: src/Std/Internal/Http/Data/Body/ByteStream.lean [hunk 2]
```diff
@@ -0,0 +1,211 @@
...
+private structure ByteStream.State where
+  buffer : Util.BufferBuilder := .empty
+  knownSize : Option Nat := none
+  closed : Bool := false
+  waiting : IO.Promise Util.BufferBuilder
+  backpressureWaiting : Option (IO.Promise Unit) := none
+  maxBufferSize : Nat := 8 * 1024 * 1024
+
+/--
+Structure representing a byte stream with optional byte slices
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/Body/ByteStream.lean]: I don't really understand what you mean by "byte stream with optional byte slices".

File: src/Std/Internal/Http/Data/Body/ByteStream.lean [hunk 3]
```diff
@@ -0,0 +1,211 @@
...
+-/
+structure ByteStream where
+  private mk ::
+  private state : Std.Mutex ByteStream.State
+
+namespace ByteStream
+
+/--
+Creates a new ByteStream with the specified initial capacity and buffer limit.
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/Body/ByteStream.lean]: This docstring seems to suggest that this function takes two parameters, but it only takes one.

File: src/Std/Internal/Http/Data/Body/ByteStream.lean [hunk 4]
```diff
@@ -0,0 +1,211 @@
...
+      if ¬ (← promise.isResolved) then
+        discard <| promise.resolve ()
+        modify fun s => { s with backpressureWaiting := none }
+
+    return some state.buffer
+
+private def tryRecv' (stream : ByteStream) : Async (Option Util.BufferBuilder) := do
+  stream.state.atomically tryRecvFromBuffer'
+
+def tryRecv (stream : ByteStream) : Async (Option (Option Util.BufferBuilder)) := do
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/Body/ByteStream.lean]: Surely a public function returning `Option (Option _)` deserves a docstring!

File: src/Std/Internal/Http/Data/Headers.lean [hunk 5]
```diff
@@ -0,0 +1,135 @@
...
+namespace Headers
+
+/--
+Splits a header value on commas, trims whitespace, puts into a HashSet.
+-/
+def splitValues (value : String) : HashSet String :=
+  HashSet.ofList <| value.splitOn "," |>.map String.trim
+
+/--
+Tries to retrieve the header values for the given key, as a HashSet.
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/Headers.lean]: This docstring looks wrong

File: src/Std/Internal/Http/Data/Headers.lean [hunk 6]
```diff
@@ -0,0 +1,135 @@
...
+  let data := headers.data.get? key
+  let words := splitValues value
+  let hm := if let some (name, hm) := data then (name, hm.insertMany words) else (name, words)
+  { data := headers.data.insert key hm }
+
+/--
+Creates empty headers.
+-/
+def empty : Headers :=
+  { data := HashMap.emptyWithCapacity }
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/Headers.lean]: Doesn't really matter, but we usually do
```suggestion
  { data := ∅ }
```

File: src/Std/Internal/Http/Data/Headers.lean [hunk 7]
```diff
@@ -0,0 +1,135 @@
...
+-/
+@[inline]
+def isEmpty (headers : Headers) : Bool :=
+  headers.data.isEmpty
+
+/--
+Merges two headers, with the second taking precedence for duplicate keys.
+-/
+def merge (headers1 headers2 : Headers) : Headers :=
+  { data := headers2.data.fold (fun acc k v => acc.insert k.toLower v) headers1.data }
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/Headers.lean]: You can use `HashMap.insertMany` here if you like.

File: src/Std/Internal/Http/Data/Method.lean [hunk 8]
```diff
@@ -0,0 +1,136 @@
...
+  | "CONNECT" => some .connect
+  | "OPTIONS" => some .options
+  | "TRACE" => some .trace
+  | "PATCH" => some .patch
+  | _ => none
+
+/--
+Request methods are considered safe if their defined semantics are essentially read-only.
+
+* Reference: https://httpwg.org/specs/rfc9110.html#metho  d.properties
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/Method.lean]:
```suggestion
* Reference: https://httpwg.org/specs/rfc9110.html#method.properties
```

File: src/Std/Internal/Http/Data/Request.lean [hunk 9]
```diff
@@ -0,0 +1,226 @@
...
+    toString req.uri ++ " " ++
+    toString req.version ++
+    "\r\n" ++
+    toString req.headers ++ "\r\n\r\n"
+
+/--
+Determines if a request method typically doesn't allow a request body
+-/
+@[inline]
+def isInformational (request : Head) : Prop :=
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/Request.lean]: Either this should return a `Bool`, or it should be called `IsInformational`.

Also, an `@[inline]` annotation on a type is very unusual, I don't think it does anything.

File: src/Std/Internal/Http/Data/Request.lean [hunk 10]
```diff
@@ -0,0 +1,226 @@
...
+/--
+Adds a single header to the request being built
+-/
+def header (builder : Builder) (key : String) (value : String) : Builder :=
+  { builder with head := { builder.head with headers := builder.head.headers.insert key value } }
+
+/--
+Builds and returns the final HTTP Request with the specified body
+-/
+def body (builder : Builder) (body : t) : Request t :=
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/Request.lean:155]: Should this function force the user to set the `Content-Type` header?

File: src/Std/Internal/Http/Data/Request.lean [hunk 11]
```diff
@@ -0,0 +1,226 @@
...
+def html (builder : Builder) (body : String) : Request Body :=
+  builder
+    |>.header "Content-Type" "text/html; charset=utf-8"
+    |>.body (body.toUTF8 |> Body.bytes)
+
+/--
+Builds and returns the final HTTP Request with form-encoded data
+-/
+def form (builder : Builder) (formData : List (String × String)) : Request Body :=
+  let encoded := formData.map (fun (k, v) => k ++ "=" ++ v) |>.foldl (· ++ "&" ++ ·) ""
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/Request.lean]: Surely this function needs to do some escaping of the data? Or is that supposed to happen elsewhere?

File: src/Std/Internal/Http/Data/Request.lean [hunk 12]
```diff
@@ -0,0 +1,226 @@
...
+def get (uri : RequestTarget) : Request Body :=
+  new
+  |>.method .get
+  |>.uri uri
+  |>.build
+
+/--
+Creates a new HTTP POST Request with the specified URI and body
+-/
+def post (uri : RequestTarget) (body : t) : Request t :=
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/Request.lean]: This function seems a bit strange to me, because it bypasses the nice helper functions with set the content type for you.

File: tests/lean/run/async_simple_http.lean [hunk 13]
```diff
@@ -0,0 +1,305 @@
...
+      |>.header "Content-Type" "application/json"
+      |>.header "Content-Length" "25"
+      |>.header "Connection" "close"
+      |>.body #["{\"name\": \"test\", \"id\": 1}"]
+  ] handler
+
+  let responseData := String.fromUTF8! response
+  IO.println s!"{responseData.quote}"
+
+-- Test 9: 100 Continue handling
```
Comment (TwoFX) [inline tests/lean/run/async_simple_http.lean]: I can't say that I understand why this is supposed to be Test 9

**Review by TwoFX — COMMENTED** [review]
Some preliminary review for the "easy" part of the PR.

File: src/Std/Internal/Http/Data/URI.lean [hunk 14]
```diff
@@ -0,0 +1,34 @@
...
+namespace Http
+namespace RequestTarget
+
+set_option linter.all true
+
+/--
+Attempt to parse a `RequestTarget` from the given string.
+-/
+@[inline]
+def parse? (string : String) : Option RequestTarget :=
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/URI.lean:30]: I think it would be great to have some tests for the various parsers in the PR. It seems like it shouldn't be hard to test these separately from all of the other stuff.

File: src/Std/Internal/Http/Protocol/H1.lean [hunk 15]
```diff
@@ -0,0 +1,942 @@
...
+def shouldFlush (machine : Machine) : Bool :=
+  machine.failed ∨
+  machine.writer.userData.size ≥ machine.config.highMark ∨
+  machine.writer.closed
+
+/--
+Get the current output data and clear the buffer
+-/
+@[inline]
+def takeOutput (machine : Machine) (highMark := 0): Option (Machine × BufferBuilder) :=
```
Comment (TwoFX) [inline src/Std/Internal/Http/Protocol/H1.lean]:
```suggestion
def takeOutput (machine : Machine) (highMark := 0) : Option (Machine × BufferBuilder) :=
```

File: src/Std/Internal/Http/Server/Connection.lean [hunk 16]
```diff
@@ -0,0 +1,198 @@
...
+            Client.sendAll socket data.data
+
+    catch err =>
+      onFailure err
+end Connection
+
+/--
+Serve conection
+-/
+def serveConnection
```
Comment (TwoFX) [inline src/Std/Internal/Http/Server/Connection.lean:295]: Given that this is basically the entry point of the entire library, I think that this function deserves a more complete docstring.

File: src/Std/Internal/Http/Server/Client.lean [hunk 17]
```diff
@@ -0,0 +1,269 @@
...
+namespace Std
+namespace Http
+namespace Server
+
+open Std Internal IO Async TCP
+
+/--
+Generic HTTP client interface that abstracts over different transport mechanisms.
+-/
+class Client (α : Type) where
```
Comment (TwoFX) [inline src/Std/Internal/Http/Server/Client.lean]: I think I get why this is called `Client`, but the name is potentially confusing because it might trick users into thinking that we ship an HTTP client. How does `ClientConnection` sound?

File: src/Std/Internal/Http/Data/Body.lean (hunk 1 above)
Comment (algebraic-dev) [reply src/Std/Internal/Http/Data/Body.lean]: Removed.

File: tests/lean/run/async_simple_http.lean [hunk 18]
```diff
@@ -0,0 +1,305 @@
+import Std.Internal.Http
```
Comment (TwoFX) [inline tests/lean/run/async_simple_http.lean]: Here is a test that's currently failing for me:
```lean
import Std.Internal.Http
import Std.Internal.Async

open Std.Internal.IO.Async
open Std Http

def request' : String := String.intercalate "\r\n" ["GET / HTTP/1.1",
"Host: localhost:8007",
"User-Agent: Mozilla/5.0 (X11; Linux x86_64; rv:143.0) Gecko/20100101 Firefox/143.0",
"",
""]

def test : IO Unit := do
  let client ← Server.Mock.Client.new
  client.enqueueReceive request'.toUTF8

  let b ← Async.block do
    Std.Http.Server.serveConnection client (fun _ => return .ok "") (config := { timeoutMilliseconds := 3000 })
    client.getSentData
  IO.println s!"{String.fromUTF8! b}"

#eval test
```

It prints:
```lean
HTTP/1.1 400 Bad Request
Connection: close
Server: LeanHTTP/1.1
```

It looks like the parser doesn't like spaces in the user agent.

**Comment by TwoFX** [comment]
I don't have a full test case for this, but when I create a response like
```
    return Std.Http.Response.new
      |>.status .ok
      |>.binary ByteArray.empty
```
then I think the `Content-Length` header should be set to 0, but it seems to be missing.

File: src/Std/Internal/Http/Data/Headers.lean (hunk 7 above)
Comment (algebraic-dev) [reply src/Std/Internal/Http/Data/Headers.lean]: This version is wrong, fixed in a new commit.

File: src/Std/Internal/Http/Util/BufferBuilder.lean [hunk 19]
```diff
@@ -0,0 +1,91 @@
...
+def append (c : BufferBuilder) (d : BufferBuilder) : BufferBuilder :=
+  { data := c.data ++ d.data, size := c.size + d.size }
+
+/--
+Turn the combined structure into a single contiguous ByteArray.
+-/
+@[inline]
+def toByteArray (c : BufferBuilder) : ByteArray :=
+  if h : c.data.size ≠ 0 then
+    c.data[0]'(Nat.zero_lt_of_ne_zero h)
```
Comment (TwoFX) [inline src/Std/Internal/Http/Util/BufferBuilder.lean]: Surely this can't be right if `c.data.size` is more than one?!

File: src/Std/Internal/Http/Protocol/H1.lean [hunk 20]
```diff
@@ -0,0 +1,947 @@
...
+  chunkExt : Array (Array (String × Option String)) := .empty
+
+  /--
+  All the data that is going to get out of the writer.
+  -/
+  outputData : BufferBuilder := .empty
+
+  /--
+  This is the size that we need to know or not before sending to the output data. If it's fixed then
+  it puts Content-Length instead o Transfer-Encoding chunked
```
Comment (TwoFX) [inline src/Std/Internal/Http/Protocol/H1.lean]: This doesn't make sense for a `Bool` field.

File: src/Std/Internal/Http/Protocol/H1.lean [hunk 21]
```diff
@@ -0,0 +1,947 @@
...
+
+  /--
+  This flags that the writer is closed so if we start to write the body we know exactly the size.
+  -/
+  closed : Bool := false
+
+namespace Writer
+
+/--
+Rests and closes the connection
```
Comment (TwoFX) [inline src/Std/Internal/Http/Protocol/H1.lean]:
```suggestion
Resets and closes the connection
```

File: src/Std/Internal/Http/Data/Request.lean (hunk 10 above)
Comment (algebraic-dev) [reply src/Std/Internal/Http/Data/Request.lean:155]: I think it's something the HTTP client can infer and add when someone tries to send the request, to prevent it from being malformed.

File: src/Std/Internal/Http/Data/Request.lean (hunk 12 above)
Comment (algebraic-dev) [reply src/Std/Internal/Http/Data/Request.lean]: I think it's kinda nice to have a helper when you don't want to use the builder. Instead of writing `Request.new |>.uri (parse! "/") |>.text "something"`, you can just use `Request.post (parse! "/") "something"`

File: src/Std/Internal/Http/Data/Request.lean (hunk 11 above)
Comment (algebraic-dev) [reply src/Std/Internal/Http/Data/Request.lean]: It happens when it's converted to String.

**Comment by TwoFX** [comment]
It seems to me that there are some problems with timeouts around `keep-alive`.

I have this super simple server:
```lean
import Std.Internal.Http

def main : IO Unit := do
  (Std.Http.Server.serve (Std.Net.SocketAddress.v6 ⟨.ofParts 0 0 0 0 0 0 0 0, 8007⟩) (fun _ => pure <| .ok "hi")).block
```

Then I have this script:
```bash
#!/bin/bash

while true; do
  printf "GET / HTTP/1.1\r\nHost: localhost\r\n\r\n"
  sleep 2
done
```

When I run the server and do `./print.sh | nc localhost 8007`, I expect the server to reply with `hi` every two seconds until the maximum number of requests is reached, and then I guess netcat should complain that the connection is closed. Instead, the server just seems to hang after the first request. It looks like it runs into the timeout (which is 1000 milliseconds by default), and then the `Connection.handle` function exists and the connection just... stays open in limbo.

This also reproduces in a browser. If I open `localhost:8007`, wait two seconds, and press F5, then the page will load indefinitely.

This seems to highlight several problems:

- the request timeout starts too early, before the next request is even sent
- the timeout is handled incorrectly
- on a more basic level: it sounds problematic that we keep-alive connections only by number of requests, not by time. If a connection is used only once, it will stay open on the server for a potentially unbounded time. This last one might be acceptable because presumably a reverse proxy will timeout the connection after a while.

File: tests/lean/run/async_http_uri_parser.lean [hunk 22]
```diff
@@ -0,0 +1,327 @@
...
+  IO.println (repr result)
+
+/--
+info: Std.Http.RequestTarget.authorityForm
+  { userInfo := none, host := Std.Http.URI.Host.name "localhost", port := some 65535 }
+-/
+#guard_msgs in
+#eval show IO _ from do
+  let result ← runParser Std.Http.Parser.parseRequestTarget "localhost:65535"
+  IO.println (repr result)
```
Comment (TwoFX) [inline tests/lean/run/async_http_uri_parser.lean]: Here is a failing test (actually a regression in one of the previous few commits):
```lean
/-- info: Std.Http.RequestTarget.originForm { segments := #[], absolute := true } none none -/
#guard_msgs in
#eval show IO _ from do
  let result ← runParser Std.Http.Parser.parseRequestTarget "/"
  IO.println (repr result)
```

File: src/Std/Internal/Http/Data/Request.lean (hunk 12 above)
Comment (TwoFX) [reply src/Std/Internal/Http/Data/Request.lean]: I agree that this is nice to have, but my point is that the latter will not set the `Content-Type` header correctly, whereas the former does.

File: src/Std/Internal/Http/Data/Request.lean (hunk 10 above)
Comment (TwoFX) [reply src/Std/Internal/Http/Data/Request.lean:155]: I guess for `Request` it's kind of moot right now, but it does matter for `Response.ok`. Right now, `Std.Http.Response.new |>.status .ok |>.text "hi"` returns something different than `Std.Http.Response.ok "hi"` and I think that's just confusing.

**Comment by algebraic-dev** [comment]
It's probably a problem with the Timer API, the interaction with Selectable and the reference counting. I'm not sure how to fix this right now but I have a solution that changes a lot of stuff in the timer api :S

**Comment by TwoFX** [comment]
Looks like the merge went wrong here, could you make sure the diff shows correctly?

File: DNS.lean [hunk 23]
```diff
@@ -0,0 +1,63 @@
+/-
```
Comment (TwoFX) [inline DNS.lean]: Presumably this should not be in the top-level directory :)

File: src/Std/Internal/Async/Basic.lean [hunk 24]
```diff
@@ -136,6 +136,13 @@ Construct an `ETask` that is already resolved with value `x`.
 protected def pure (x : α) : ETask ε α :=
   Task.pure <| .ok x
 
+/--
+Returns `true` if a `ETask` has finished it's execution
```
Comment (TwoFX) [inline src/Std/Internal/Async/Basic.lean]:
```suggestion
Returns `true` if an `ETask` has finished its execution
```
and similar below

File: src/Std/Internal/Http.lean [hunk 25]
```diff
@@ -0,0 +1,108 @@
...
+  return Response.ok ("hi, " ++ data)
+
+def mainAsync : Async Unit := do
+  Server.serve (.v4 (.mk (.ofParts 0 0 0 0) 8080)) handler
+
+def main := mainAsync.block
+```
+-/
+
+namespace Std.Http
```
Comment (TwoFX) [inline src/Std/Internal/Http.lean]:
```suggestion
```

File: src/Std/Internal/Http.lean [hunk 26]
```diff
@@ -0,0 +1,108 @@
...
+/-!
+# Http
+
+A "low-level" HTTP 1.1 Server and Client implementation for Lean. It is designed to be used with or without the
+`Async` library if you want to implement a custom `Connection`.
+
+# Overview
+
+This module of the standard library defines many concepts related to the HTTP protocol
+and its semantics in a SANS-IO format. The main function of this library is `Std.Http.Server.serve`,
```
Comment (TwoFX) [inline src/Std/Internal/Http.lean]: Probably it makes sense to add a quick explanation here what Sans I/O is since many people reading this will not have come across the term before.

File: src/Std/Internal/Http.lean [hunk 27]
```diff
@@ -0,0 +1,108 @@
...
+```
+
+# Main Concepts
+
+## Transport
+
+`Std.Http.Server.Transport` is a type class used for describing a way of communication between a `Connection` and outside
+of the `Connection`. It can be a `Mock.Client` that sends and receives byte arrays so it can be used for
+deterministic testing a HTTP connection or a `TCP.Socket.Client` that is how usually it communicated with
+the internet.
```
Comment (TwoFX) [inline src/Std/Internal/Http.lean]: The grammar could probably be tweaked a bit here.

File: src/Std/Internal/Http.lean [hunk 28]
```diff
@@ -0,0 +1,108 @@
...
+
+## Connection
+
+`Std.Http.Server.Connection` is a structure that stores both a `Transport` and a `Machine`
+the machine right now is only a `Protocol.H1.Machine` that implements a State Machine for parsing request and responses for HTTP/1.1
```
Comment (TwoFX) [inline src/Std/Internal/Http.lean]: Same here.

File: src/Std/Internal/Http.lean [hunk 29]
```diff
@@ -0,0 +1,108 @@
...
+
+If you want to customize how your server handles sockets, you can use `Std.Http.Server.serveConnection`,
+which is a simple function to bind a handler to a `ClientConnection`.
+
+# Low-Level Protocol Implementation
```
Comment (TwoFX) [inline src/Std/Internal/Http.lean]: This paragraph is a bit confusing; I'm not sure whether it adds anything to the above.

File: src/Std/Internal/Http/Client/Config.lean [hunk 30]
```diff
@@ -0,0 +1,99 @@
...
+  The user-agent string to send by default.
+  -/
+  userAgent : Option HeaderValue := some (.new "lean-http/1.1")
+
+namespace Config
+
+/--
+Convert this client config into an HTTP/1.1 protocol configuration.
+-/
+def toH1Config (config : Config) : Protocol.H1.Machine.Config :=
```
Comment (TwoFX) [inline src/Std/Internal/Http/Client/Config.lean]: Use `where` to construct structure instances, or else use the bracket indentation scheme described at https://github.com/leanprover/lean4/blob/master/doc/std/style.md#structures

File: src/Std/Internal/Http/Client/Connection.lean [hunk 31]
```diff
@@ -0,0 +1,347 @@
...
+  Shutdown Promise, resolves when the connection shuts down.
+  -/
+  shutdown : IO.Promise Unit
+
+namespace PersistentConnection
+
+/--
+Send a request through the persistent connection.
+-/
+def send [Transport α] (pc : PersistentConnection α) (request : Request Body) : Async (Response Body) := do
```
Comment (TwoFX) [inline src/Std/Internal/Http/Client/Connection.lean]: Seems to be unused
```suggestion
def send (pc : PersistentConnection α) (request : Request Body) : Async (Response Body) := do
```

File: src/Std/Internal/Http/Client/Connection.lean [hunk 32]
```diff
@@ -0,0 +1,347 @@
...
+
+-- Create persistent connection
+let pc ← createPersistentConnection socket config
+
+-- Spawn the connection handler
+async (pc.connection.handlePersistent pc.config pc.requestChannel)
+
+-- Send multiple requests
+pc.send request1 (fun response => IO.println s!"Response 1: {response.head.status}")
+pc.send request2 (fun response => IO.println s!"Response 2: {response.head.status}")
```
Comment (TwoFX) [inline src/Std/Internal/Http/Client/Connection.lean]: Does this actually work? Sounds like it might trigger https://github.com/leanprover/lean4/issues/738

File: src/Std/Internal/Http/Data/Body.lean [hunk 33]
```diff
@@ -0,0 +1,112 @@
...
+
+This module defines the `Body` type, which represents the body of a HTTP request or response.
+-/
+
+namespace Std.Http
+
+open Std Internal IO Async
+
+set_option linter.all true
+
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/Body.lean:25]:
```suggestion
```

File: src/Std/Internal/Http/Data/Body.lean [hunk 34]
```diff
@@ -0,0 +1,112 @@
...
+set_option linter.all true
+
+/--
+Type that represents the body of a request or response with streams of bytearrays or bytearrays of fixed
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/Body.lean]:
```suggestion
Type that represents the body of a request or response with streams of byte arrays or byte arrays of fixed
```

File: src/Std/Internal/Http/Data/Body/Length.lean [hunk 35]
```diff
@@ -0,0 +1,51 @@
...
+# Length
+
+This module defines the `Length` structure, that represents the content-length or transfer-encoding
+of a HTTP Request or response.
+-/
+
+namespace Std.Http.Body
+
+set_option linter.all true
+
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/Body/Length.lean:23]:
```suggestion
```

File: src/Std/Internal/Http/Data/Chunk.lean [hunk 36]
```diff
@@ -0,0 +1,72 @@
...
+
+set_option linter.all true
+
+/--
+Represents a chunk of data with optional extensions (key-value pairs).
+-/
+structure Chunk where
+
+  /--
+  ?
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/Chunk.lean]: ?

File: src/Std/Internal/Http/Data/Chunk.lean [hunk 37]
```diff
@@ -0,0 +1,72 @@
...
+-/
+def withExtension (chunk : Chunk) (key : String) (value : String) : Chunk :=
+  { chunk with extensions := chunk.extensions.push (key, some value) }
+
+/--
+Returns the total size of the chunk including data and formatted extensions. Extensions are formatted
+as: ;name=value;name=value Plus 2 bytes for \r\n at the end.
+-/
+def size (chunk : Chunk) : Nat :=
+  let extensionsSize := chunk.extensions.foldl (fun acc (name, value) => acc + name.length + (value.get!).length + 2) 0
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/Chunk.lean]: Surely we don't want to panic if there is an extension without a value?! Also I think that the calculation here is not quite right for an extension without a value, because then we don't have an equals sign. I think it should be something like 
```suggestion
  let extensionsSize := chunk.extensions.foldl (fun acc (name, value) => acc + name.length + (value.map (fun v => v.length + 1) |>.getD 0) + 1) 0
```

File: src/Std/Internal/Http/Data/Chunk.lean [hunk 38]
```diff
@@ -0,0 +1,72 @@
...
+  chunk.data.size + extensionsSize + 2
+
+instance : Encode .v11 Chunk where
+  encode buffer chunk :=
+  let chunkLen := chunk.data.size
+  let exts := chunk.extensions.foldl (fun acc (name, value)  => acc ++ ";" ++ name ++ (value.map (fun x => "=" ++ x) |>.getD "")) ""
+  let size := Nat.toDigits 16 chunkLen |>.toArray |>.map Char.toUInt8 |> ByteArray.mk
+  buffer.append #[size, exts.toUTF8, "\r\n".toUTF8, chunk.data, "\r\n".toUTF8]
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/Chunk.lean]:
```suggestion
    let chunkLen := chunk.data.size
    let exts := chunk.extensions.foldl (fun acc (name, value)  => acc ++ ";" ++ name ++ (value.map (fun x => "=" ++ x) |>.getD "")) ""
    let size := Nat.toDigits 16 chunkLen |>.toArray |>.map Char.toUInt8 |> ByteArray.mk
    buffer.append #[size, exts.toUTF8, "\r\n".toUTF8, chunk.data, "\r\n".toUTF8]
```

File: src/Std/Internal/Http/Data/Body/ByteStream.lean [hunk 39]
```diff
@@ -0,0 +1,376 @@
...
+      return Sum.inl (promise, data, extensions)
+    else
+      let toWrite := min data.size availableSpace
+      let dataToAdd := data.extract 0 toWrite
+      let remaining := if toWrite < data.size then data.extract toWrite data.size else ByteArray.empty
+
+      let chunk : Chunk := {
+        data := dataToAdd,
+        extensions := extensions
+      }
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/Body/ByteStream.lean]: I'm unsure whether this correctly implements RFC9112. The RFC says:

> The chunked coding allows each chunk to include zero or more chunk extensions, immediately following the [chunk-size](https://datatracker.ietf.org/doc/html/rfc9112#chunked.encoding), for the sake of supplying per-chunk metadata (such as a signature or hash), mid-message control information, or randomization of message body size.

But if one of the points of the chunk extension is to provide something like a hash, surely it is not correct for us to split up the data into more than one chunk here.

File: src/Std/Internal/Http/Data/Body/ByteStream.lean [hunk 40]
```diff
@@ -0,0 +1,376 @@
...
+
+/--
+Iterate over the body content in chunks, processing each ByteArray chunk with the given step function.
+-/
+@[inline]
+protected partial def forIn
+  {β : Type} (stream : ByteStream) (acc : β)
+  (step : Chunk → β → Async (ForInStep β)) :
+  Async β := do
+    let rec @[specialize] loop (stream : ByteStream) (acc : β) : Async β := do
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/Body/ByteStream.lean]: Indentation is wrong here, cf. style guide.

File: src/Std/Internal/Http/Data/Headers.lean [hunk 41]
```diff
@@ -0,0 +1,274 @@
...
+-/
+@[expose]
+def is (s : HeaderValue) (h : String) : Bool :=
+  s.value.toLower == h.toLower
+
+/--
+Concatenates two `HeaderValue` instances, preserving the validity guarantee.
+-/
+def append (l : HeaderValue) (r : HeaderValue) : HeaderValue := by
+  refine ⟨l.value ++ r.value, ?_⟩
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/Headers.lean]: You should use the new `where finally` syntax here :)

File: src/Std/Internal/Http/Server.lean [hunk 42]
```diff
@@ -0,0 +1,135 @@
...
+
+    if (← get) = 0 ∧ (← s.cancellation.isCancelled) then
+      s.shutdownPromise.resolve ()
+
+  return result
+
+/--
+Start a new HTTP/1.1 server on the given socket address. This function uses the `Async` for handling
+tasks and TCP connections, it also returns a `Server` structure that can be used to the cancellation
+of the server.
```
Comment (TwoFX) [inline src/Std/Internal/Http/Server.lean]: Some more grammar issues in this docstring.

File: src/Std/Internal/Http.lean [hunk 43]
```diff
@@ -0,0 +1,108 @@
...
+def handler (req : Request Body) : Async (Response Body) := do
+  let some data ← req.body.collectString
+    | return Response.badRequest "expected a utf8 body"
+
+  return Response.ok ("hi, " ++ data)
+
+def mainAsync : Async Unit := do
+  Server.serve (.v4 (.mk (.ofParts 0 0 0 0) 8080)) handler
+
+def main := mainAsync.block
```
Comment (TwoFX) [inline src/Std/Internal/Http.lean]: This example does not work anymore; probably a call to `waitShutdown` needs to be inserted.

**Review by TwoFX — COMMENTED** [review]
So I have this simple server:
```lean
import Std.Internal.Http

open Std.Internal.IO.Async Std.Http

def handle (_req : Request Body) : Async (Response Body) := do
  return .ok "Hello, world!"

def main : IO Unit := do
  (Server.serve (.v6 ⟨.ofParts 0 0 0 0 0 0 0 0, 8007⟩) handle >>= Server.waitShutdown).block
```

but when I `curl -vL localhost:8007`, then I get this:
```
* Host localhost:8007 was resolved.
* IPv6: ::1
* IPv4: 127.0.0.1
*   Trying [::1]:8007...
* Connected to localhost (::1) port 8007
* using HTTP/1.x
> GET / HTTP/1.1
> Host: localhost:8007
> User-Agent: curl/8.15.0
> Accept: */*
> 
* Request completely sent off
< HTTP/1.1 200 OK
< Content-Length: 1
< Server: LeanHTTP/1.1
< 
* Excess found writing body: excess = 12, size = 1, maxdownload = 1, bytecount = 1
* shutting down connection #0
H⏎
```
Looks like the `Content-Length` header is not set correctly.

Edit: ah, the tests caught this too!

Either way, please re-request a review from me once you have addressed my comments, made sure the tests are green and that the basic functionality is working. I can't really do much testing if all clients truncate the response to its first byte...

File: src/Std/Internal/Http.lean [hunk 44]
```diff
@@ -0,0 +1,99 @@
...
+## Transport
+
+`Std.Http.Server.Transport` is a type class that defines how communication occurs between a `Connection`
+and the outside world. It can be implemented by, for example, a `Mock.Client`, which sends and receives
+byte arrays for deterministic HTTP connection testing, or by a `TCP.Socket.Client`, which is the
+standard way to communicate over the internet in HTTP/1.1.
+
+## Connection
+
+`Std.Http.Server.Connection` is a structure that holds both a `Transport` and a `Machine`. Currently,
```
Comment (TwoFX) [inline src/Std/Internal/Http.lean]: The `Currently` is a bit mysterious. What are you communicating here? Should users expect that this will change soon?

File: src/Std/Internal/Http/Data/Body.lean (hunk 34 above)
Comment (TwoFX) [reply src/Std/Internal/Http/Data/Body.lean]: Looks like this wasn't fixed.

File: src/Std/Internal/Http/Server.lean [hunk 45]
```diff
@@ -0,0 +1,134 @@
...
+
+  let server ← Socket.Server.mk
+  server.bind addr
+  server.listen backlog
+
+  background do
+    frameCancellation httpServer do
+      while not (← httpServer.cancellation.isCancelled) do
+        let client ← server.accept
+        background (frameCancellation httpServer (serveConnection client onRequest config) )
```
Comment (TwoFX) [inline src/Std/Internal/Http/Server.lean]:
```suggestion
        background (frameCancellation httpServer (serveConnection client onRequest config))
```

File: src/Std/Internal/Http/Server.lean [hunk 46]
```diff
@@ -0,0 +1,134 @@
...
+-/
+def new (config : Std.Http.Config := {}) : IO Server := do
+  let cancellation ← Std.CancellationToken.new
+  let activeConnections ← Std.Mutex.new 0
+  let shutdownPromise : IO.Promise Unit ← IO.Promise.new
+
+  return { cancellation, activeConnections, shutdownPromise, config }
+
+/--
+Triggers the cancellation of all the requests and the accept loop in the server.
```
Comment (TwoFX) [inline src/Std/Internal/Http/Server.lean]: I think it would be good for the docstrings of all three of `shutdown`, `waitShutdown` and `shutdownAndWait` to contain an explanation of the differences between the three functions and how they are related.

File: src/Std/Internal/Http/Protocol/H1/Writer.lean [hunk 47]
```diff
@@ -0,0 +1,253 @@
...
+  userData : Array Chunk := .empty
+
+  /--
+  All the data that is going to get out of the writer.
+  -/
+  outputData : ChunkedBuffer := .empty
+
+  /--
+  The state of the writer machine. It carries if the reader had already read the headers, the size
+  of the output, if it's chunked or not.
```
Comment (TwoFX) [inline src/Std/Internal/Http/Protocol/H1/Writer.lean]: This docstring seems to be  inaccurate, part of this information is stored  elsewhere (like the `knownSize` field).

File: src/Std/Internal/Http/Data/Response.lean [hunk 48]
```diff
@@ -0,0 +1,216 @@
...
+-/
+def stream (builder : Builder) (body : Body.ByteStream → Async Unit) : Async (Response Body) := do
+  let stream ← Body.ByteStream.empty
+  background (body stream)
+  return { head := builder.head, body := stream }
+
+/--
+Builds and returns the final HTTP Response.
+-/
+def build [EmptyCollection t] (builder : Builder) : Response t :=
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/Response.lean:141]: This is nice, but shouldn't `Std.Http.Body` get an `EmptyCollection` instance so that this works?

File: src/Std/Internal/Http/Protocol/H1/Parser.lean [hunk 49]
```diff
@@ -0,0 +1,292 @@
...
+    return res
+  else
+    fail "expected value but got none"
+
+@[inline]
+def token (limit : Nat) : Parser ByteSlice :=
+  takeWhileUpTo1 isTokenCharacter limit
+
+@[inline]
+def crlf : Parser Unit :=
```
Comment (TwoFX) [inline src/Std/Internal/Http/Protocol/H1/Parser.lean]: Your parser is very strict about getting that `\r`. I don't think that is necessarily a bad thing, but during my experiments I noticed that the few other HTTP servers I connected to by hand all were perfectly fine with just receiving `\n`.

File: src/Std/Internal/Http/Protocol/H1/Parser.lean [hunk 50]
```diff
@@ -0,0 +1,292 @@
...
+  let uri ← match (Std.Http.Parser.parseRequestTarget <* eof).run uri with
+  | .ok res => pure res
+  | .error res => fail res
+
+  let version ← parseHttpVersion <* crlf
+  return ⟨method, version, uri, .empty⟩
+
+-- field-line   = field-name ":" OWS field-value OWS
+def parseFieldLine (limits : H1.Config) : Parser (String × String) := do
+  (String.fromUTF8! ·.toByteArray, String.fromUTF8! ·.toByteArray) <$>
```
Comment (TwoFX) [inline src/Std/Internal/Http/Protocol/H1/Parser.lean]: I don't think it's a good idea to use `String.fromUTF8!` anywhere in the parser. If the client sends invalid UTF-8 this will cause the server to panic, and depending on the settings this will terminate the server or carry on with the empty string, both of which are far from ideal. You should use `String.fromUTF8?` here and fail the parser if you get back `none` so that an invalid header value leads to a HTTP 400.

File: src/Std/Internal/Http/Data/Body/ByteStream.lean [hunk 51]
```diff
@@ -0,0 +1,173 @@
...
+Receives a chunk and returns only its data, discarding extensions.
+Returns `none` if the stream is closed and no data is available.
+-/
+def recvBytes (stream : ByteStream) : Async (Option ByteArray) := do
+  let chunk? ← stream.recv
+  return chunk?.map (·.data)
+
+/--
+Writes data to the stream as a chunk with optional extensions.
+Returns `false` if the stream is closed.
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/Body/ByteStream.lean]: Does it?

**Comment by TwoFX** [comment]
I have this server:
```lean
import Std.Internal.Http
import Std.Internal.Async.TCP
import Std.Time

open Std.Internal.IO.Async
open Std.Http

def theTimeNow : IO ByteArray := do
  let t ← Std.Time.ZonedDateTime.nowAt "Europe/Berlin"
  return s!"{t}\n".toUTF8

def theTimeInFiveSeconds : Async ByteArray := do
  let s ← Sleep.mk 5000
  s.wait
  return ← theTimeNow

def writeTheTimeToTheStreamInFiveSeconds (s : Body.ByteStream) : Async Unit := do
  let t ← theTimeInFiveSeconds
  let _ ← s.write t
  s.close

def handle (_req : Request Body) : Async (Response Body) := do
  let stream ← Body.ByteStream.empty
  writeTheTimeToTheStreamInFiveSeconds stream
  return Response.ok (.stream stream)

def asyncMain : Async Unit := do
  let server ← Std.Http.Server.serve (.v6 ⟨.ofParts 0 0 0 0 0 0 0 0, 8007⟩) handle
  server.waitShutdown

def main : IO Unit := asyncMain.block
```

I might be misunderstanding the API completely here; let me know if this is the case. Anyway, if I run this and then do `curl localhost:8007`, the server crashes with `Stack overflow detected. Aborting.`, and `curl` reports `curl: (52) Empty reply from server`.

File: src/Std/Internal/Http/Data/Response.lean [hunk 52]
```diff
@@ -0,0 +1,216 @@
...
+  The set of response headers, providing metadata such as `Content-Type`,
+  `Content-Length`, and caching directives.
+  -/
+  headers : Headers := .empty
+deriving Inhabited, Repr
+
+/--
+HTTP response structure parameterized by body type
+-/
+structure Response (t : Type) where
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/Response.lean:56]: At this point, it it still necessary to parameterize `Response` by the body type? Is there any situation where `t` is not going to be `Std.Http.Body`?

Comment (algebraic-dev) [reply src/Std/Internal/Http/Data/Response.lean:56]: It’s because `Body` depends on the `Async` monad. If someone wants to build their own implementation using `H1.lean`, they can choose a different monad and pair it with a compatible body type instead.

File: src/Std/Internal/Http.lean (hunk 44 above)
Comment (algebraic-dev) [reply src/Std/Internal/Http.lean]: Not soon, but I think that it can change in the future if the library starts to support HTTP/2, Websockets or other protocols.

**Comment by TwoFX** [comment]
I have this simple `echo` server:
```lean
import Std.Internal.Http
import Std.Internal.Async.TCP
import Std.Time

open Std.Internal.IO.Async
open Std.Http

def echo (req : Request Body) : Async (Response Body) := do
  let mut everything : ByteArray := .empty
  let mut numChunks := 0
  for chunk in req.body do
    numChunks := numChunks + 1
    everything := everything ++ chunk.data
    IO.println s!"Received a chunk of size {chunk.size}."
  IO.println s!"Received {everything.size} bytes in {numChunks} chunks."
  return Response.ok everything

def asyncMain : Async Unit := do
  let server ← Std.Http.Server.serve (.v6 ⟨.ofParts 0 0 0 0 0 0 0 0, 8007⟩) echo
  server.waitShutdown

def main : IO Unit := asyncMain.block
```

and then I have this request which contains a trailer:
```
POST / HTTP/1.1
Host: localhost
User-Agent: curl/8.14.1
Transfer-Encoding: chunked
Trailer: X-Checksum
Accept: */*

5
Hello
6
 World
0
X-Checksum: abcd

```
This causes a hang (i.e., the server sends no response). Trailers are a pretty unusual feature, but we should be able to parse a request containing one. I believe the common practice is to parse them, but ignore their values (so they would not be available as part of the `Request`).

**Comment by TwoFX** [comment]
Currently, after the request timeout runs out, we send a `400`. I think you're supposed to send a `408` in that case.

Also, our default timeout(s) are very short. For example, the default `nginx` setting is that you have 60 seconds for the entire header and then another 60 seconds for every chunk of the body.

**Comment by TwoFX** [comment]
I *think* there is still a logic problem with receiving chunked requests (update: no there isn't; my script was bad).

I am using the echo server from my earlier comment, as an executable target called `echo` in a `lake` project. Then I have this script:
```sh
#!/bin/sh
timeout 10s lake exe echo &
sleep 2 # Wait for the server to come up

mkfifo fif
ncat -C localhost 8007 < fif &
printf "POST / HTTP/1.1\r\nHost: localhost\r\nTransfer-Encoding: chunked\r\n\r\n5\r\nHello\r\n" > fif
sleep 1
printf "6\r\n World\r\n0\r\n\r\n" > fif
rm fif
```
I expect the server to return a response returning `Hello World`. Now, if I comment out the `sleep 1`, then this does work. But with the `sleep 1` in place, no response is returned; I only get the `Received a chunk of size 5.` for the first chunk.

File: src/Std/Internal/Http/Data/Response.lean [hunk 53]
```diff
@@ -0,0 +1,216 @@
...
+-/
+def html (builder : Builder) (body : String) : Response Body :=
+  builder
+    |>.header (.new "Content-Type") (.new "text/html; charset=utf-8")
+    |>.body (body.toUTF8 |> Body.bytes)
+
+end Builder
+
+/--
+Creates a new HTTP Response with OK status and the provided string body
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/Response.lean]: Inaccurate docstring here and elsewhere in the file.

**Comment by TwoFX** [comment]
I might be doing something wrong here (update: yes I was, see below), but this not behaving like I expected:
```lean
import Std.Internal.Http
import Std.Internal.Async.TCP
import Std.Time

open Std.Internal.IO.Async
open Std.Http

def theTimeNow : IO ByteArray := do
  let t ← Std.Time.ZonedDateTime.nowAt "Europe/Berlin"
  return s!"{t}\n".toUTF8

def theTimeInTheFuture : Async ByteArray := do
  let s ← Sleep.mk 500
  s.wait
  return ← theTimeNow

partial def writeTheTimeToTheStreamManyTimes (s : Body.ByteStream) (i : Nat) : Async Unit := do
  let t ← theTimeInTheFuture
  let _ ← s.writeChunk (Chunk.mk t #[])
  if i = 10 then
    s.close
  else
    writeTheTimeToTheStreamManyTimes s (i + 1)

def handle (_req : Request Body) : Async (Response Body) := do
  let stream ← Body.ByteStream.empty
  writeTheTimeToTheStreamManyTimes stream 0
  return Response.ok stream

def asyncMain : Async Unit := do
  let server ← Std.Http.Server.serve (.v6 ⟨.ofParts 0 0 0 0 0 0 0 0, 8007⟩) handle
  server.waitShutdown

def main : IO Unit := asyncMain.block
```
When I send a request, I expect the response chunks to trickle in slowly, one at a time, but it seems that instead all of the chunks come in all at once after 5.5 seconds.

If the number `10` is changed to be something bigger, it seems we run into our own timeout and return a `408` after ten seconds. This also seems wrong.

**Comment by algebraic-dev** [comment]
The current behavior for both the data and timeout is expected. In your example, you're blocking the handler while waiting for a timer before sending the response. To fix this, you need to send the response immediately and handle the streaming asynchronously:

```lean
def handle (_req : Request Body) : Async (Response Body) := do
  let stream ← Body.ByteStream.empty
  
   -- it starts another task that will send the chunks
  background (writeTheTimeToTheStreamManyTimes stream 0)
  
  -- and here we send the response with the stream
  return Response.ok stream
```

or 

```lean
def handle (_req : Request Body) : Async (Response Body) := do
  Response.new
    |>.status .ok
    |>.stream (writeTheTimeToTheStreamManyTimes · 0)
```


Timeouts are working as intended. The request handler should be able to time out when it's waiting for resources like files for too long. This applies to both sending responses and streaming chunks. I think that we can improve that by giving control of these timeouts inside the request or even removing them and letting the user make this as the Hyper library does.

**Comment by TwoFX** [comment]
Here is another one that surprised me:
```lean
import Std.Internal.Http
import Std.Internal.Async.TCP
import Std.Time
import Std.Data.Iterators

open Std.Internal.IO.Async
open Std.Http
open Std Iterators

def theTimeInTheFuture : Async ByteArray := do
  (← Sleep.mk 1000).wait
  let t ← Std.Time.ZonedDateTime.nowAt "Europe/Berlin"
  return s!"{t}\n".toUTF8

def tick :=
  Iter.repeat (fun _ => ()) () |>.mapM (fun _ => theTimeInTheFuture)

def writeToStream (s : Body.ByteStream) {α : Type} [Iterator α Async ByteArray] [IteratorLoopPartial α Async Async]
    (i : Std.IterM (α := α) Async ByteArray) : Async Unit := do
  for b in i.allowNontermination do
    s.writeChunk (Chunk.mk b #[])
  s.close

def handle (_req : Request Body) : Async (Response Body) :=
  Response.new
    |>.status .ok
    |>.stream (writeToStream · tick)

def asyncMain : Async Unit := do
  let server ← Std.Http.Server.serve (.v6 ⟨.ofParts 0 0 0 0 0 0 0 0, 8007⟩) handle
  server.waitShutdown

def main : IO Unit := asyncMain.block
```

Here is was expecting to receive an infinite stream of timestamps. Instead, after 10 timestamps, the server segfaults.

File: src/Std/Internal/Http/Data/Request.lean (hunk 10 above)
Comment (algebraic-dev) [reply src/Std/Internal/Http/Data/Request.lean:155]: I was trying to think about some solutions, and I don't think that adding the text/plain header to Std.Http.Response.ok "hi" would be a good idea because String is not always text/plain. The text function just makes it explicit that it's text/plain, so I'm not sure what to do.

Comment (algebraic-dev) [reply src/Std/Internal/Http/Data/Request.lean:155]: Now all these functions create a `Builder`.

**Comment by milessabin** [comment]
I'm seeing a request URI of `/` being parsed as a non-empty array of segments with single element `""` ... I'm guessing that's not intended.

File: src/Std/Internal/Http/Data/Header/Name.lean [hunk 54]
```diff
@@ -0,0 +1,232 @@
...
+structure HeaderName where
+  /--
+  The original case-preserved string
+  -/
+  value : String
+
+  /--
+  The proof that it's a valid header name
+  -/
+  validHeaderName : isValidHeaderName value
```
Comment (ecyrbe) [inline src/Std/Internal/Http/Data/Header/Name.lean]: I would suggest to have `HeaderName` have an additionnal proof, that the Name is in `normal` form or `canonical` form. I think `normal` is easier.
This will allow to set the internal representation to Lowercase only once, and evoid some computation for each `hash`, `beq` and `is` operations.
The custom `Hash` and `BEq` instances can then also be removed.
You'll also have the benefit of having a lawful beq instance.

```lean4
@[expose]
abbrev isNormalform (s: String) : Prop := s = s.toLower
```
then

```suggestion
structure HeaderName where
  /--
  The original case-preserved string
  -/
  value : String

  /--
  The proof that it's a valid header name
  -/
  validHeaderName : isValidHeaderName value
  /--
  The proof that we stored the header name in normal form
  -/
  normalform: isNormalForm value
```

Comment (algebraic-dev) [reply src/Std/Internal/Http/Data/Header/Name.lean]: Added :D thanks.

File: src/runtime/uv/signal.cpp [hunk 55]
```diff
@@ -101,16 +101,19 @@ extern "C" LEAN_EXPORT lean_obj_res lean_uv_signal_mk(uint32_t signum_obj, uint8
 extern "C" LEAN_EXPORT lean_obj_res lean_uv_signal_next(b_obj_arg obj) {
     lean_uv_signal_object * signal = lean_to_uv_signal(obj);
 
-    auto setup_signal = [obj, signal]() {
-        lean_assert(signal->m_promise == NULL);
+    auto create_promise = []() {
```
Comment (TwoFX) [inline src/runtime/uv/signal.cpp:104]: Are you reverting #11724 here?

File: src/Std/Internal/Http/Data/Header/Name.lean [hunk 56]
```diff
@@ -0,0 +1,283 @@
...
+open Internal.String
+
+set_option linter.all true
+
+/--
+Checks if a character is valid for use in an HTTP header value.
+-/
+@[expose]
+def isValidHeaderChar (c : Char) : Bool :=
+  (0x21 ≤  c.val ∧  c.val ≤ 0x7E) ∨ c.val = 0x09 ∨ c.val = 0x20
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/Header/Name.lean:31]: I wonder whether this would be clearer as ` ('!' ≤ c ∧ c ≤ '~') ∨ c = '\t' ∨ c = ' '`. Either way, there are some unnecessary spaces in that line.

File: src/Std/Internal/Http/Data/Header/Name.lean [hunk 57]
```diff
@@ -0,0 +1,283 @@
...
+  The proof that it's a valid header value
+  -/
+  validHeaderValue : isValidHeaderValue value
+deriving BEq, DecidableEq, Repr
+
+namespace Value
+
+instance : Hashable Value := ⟨Hashable.hash ∘ Value.value⟩
+
+instance : Inhabited Value := ⟨⟨"", by native_decide⟩⟩
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/Header/Name.lean:59]:
```suggestion
instance : Inhabited Value := ⟨⟨"", by decide⟩⟩
```

File: src/Std/Internal/Http/Data/Header/Name.lean [hunk 58]
```diff
@@ -0,0 +1,283 @@
...
+-/
+@[expose]
+def isValidHeaderChar (c : Char) : Bool :=
+  (0x21 ≤  c.val ∧  c.val ≤ 0x7E) ∨ c.val = 0x09 ∨ c.val = 0x20
+
+/--
+Proposition that asserts all characters in a string are valid for HTTP header values.
+-/
+@[expose]
+abbrev isValidHeaderValue (s : String) : Prop :=
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/Header/Name.lean:37]: Either this should return `Bool` or it should start with a capital letter.

File: src/Std/Internal/Http/Data/Header/Name.lean [hunk 59]
```diff
@@ -0,0 +1,283 @@
...
+  else
+    v != 0x22 && v != 0x28 && v != 0x29 && v != 0x2C && v != 0x3B
+    && v != 0x5B && v != 0x5D && v != 0x7B && v != 0x7D
+
+/--
+Proposition that asserts all characters in a string are valid for HTTP header names.
+-/
+@[expose]
+abbrev isValidHeaderName (s : String) : Prop :=
+  s.toList.all isValidHeaderNameChar ∧ !s.toList.isEmpty
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/Header/Name.lean:122]:
```suggestion
  s.toList.all isValidHeaderNameChar ∧ ¬s.isEmpty
```

This will require you to add 
```lean
theorem isEmpty_eq {s : String} : s.isEmpty = (s.utf8ByteSize == 0) := by rfl

theorem isEmpty_iff {s : String} : s.isEmpty ↔ s.utf8ByteSize = 0 := by
  simp [isEmpty_eq]

instance {s : String} : Decidable s.isEmpty :=
  decidable_of_iff' _ isEmpty_iff
```

below the definition of `isEmpty` in `String/Defs.lean`.

File: src/Std/Internal/Http/Data/Header/Name.lean [hunk 60]
```diff
@@ -0,0 +1,283 @@
...
+  let v := c.val
+
+  if v < 0x21 || v > 0x7E then
+    false
+  else
+    v != 0x22 && v != 0x28 && v != 0x29 && v != 0x2C && v != 0x3B
+    && v != 0x5B && v != 0x5D && v != 0x7B && v != 0x7D
+
+/--
+Proposition that asserts all characters in a string are valid for HTTP header names.
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/Header/Name.lean:118]: ..and that it is non-empty.

File: src/Std/Internal/Http/Data/Header/Name.lean [hunk 61]
```diff
@@ -0,0 +1,283 @@
...
+@[expose]
+abbrev isValidHeaderName (s : String) : Prop :=
+  s.toList.all isValidHeaderNameChar ∧ !s.toList.isEmpty
+
+/--
+Proposition that a header name is in the internal normal form, meaning it has been
+normalized by lowercasing.
+-/
+@[expose]
+abbrev isNormalForm (s : String) : Prop :=
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/Header/Name.lean:129]: Surely you should be using the `String.IsLowerCase` that you defined elsewhere here?

File: src/Std/Internal/Http/Internal/LowerCase.lean [hunk 62]
```diff
@@ -0,0 +1,115 @@
...
+Predicate asserting that a string is already in lowercase normal form.
+-/
+abbrev String.IsLowerCase (s : String) : Prop :=
+  s.toLower = s
+
+namespace String.IsLowerCase
+
+private theorem Char.toLower_toLower (c : Char) : c.toLower.toLower = c.toLower := by
+  unfold Char.toLower
+  have _hSub : ('a'.val - 'A'.val).toNat = 32 := by native_decide
```
Comment (TwoFX) [inline src/Std/Internal/Http/Internal/LowerCase.lean:38]: Let's please not get in the habit of using `native_decide` in proofs.

File: src/Std/Internal/Http/Internal/LowerCase.lean [hunk 63]
```diff
@@ -0,0 +1,115 @@
+/-
+Copyright (c) 2025 Lean FRO, LLC. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Sofia Rodrigues
+-/
+module
+prelude
+
+public import Init.Data.String
```
Comment (TwoFX) [inline src/Std/Internal/Http/Internal/LowerCase.lean:9]:
```suggestion

prelude
public import Init.Data.String
```

File: src/Std/Internal/Http/Internal/LowerCase.lean [hunk 64]
```diff
@@ -0,0 +1,115 @@
...
+  unfold Char.toLower
+  have _hSub : ('a'.val - 'A'.val).toNat = 32 := by native_decide
+  have _hZ : 'Z'.val.toNat = 90 := by native_decide
+  have _hA : 'A'.val.toNat = 65 := by native_decide
+  split <;> rename_i h
+  · simp only [UInt32.le_iff_toNat_le] at h
+    split <;> rename_i h'
+    · simp only [UInt32.le_iff_toNat_le, UInt32.toNat_add] at h'; omega
+    · rfl
+  · rfl
```
Comment (TwoFX) [inline src/Std/Internal/Http/Internal/LowerCase.lean:46]: After `import Init.Grind`, this becomes

```suggestion
  grind [Char.toLower]
```

File: src/Std/Internal/Http/Internal/LowerCase.lean [hunk 65]
```diff
@@ -0,0 +1,115 @@
...
+
+/--
+Proof that applying `toLower` to any string results in a string that
+satisfies the `IsLowerCase` predicate.
+-/
+theorem lower_isLowerCase {s : String} : IsLowerCase s.toLower := by
```
Comment (TwoFX) [inline src/Std/Internal/Http/Internal/LowerCase.lean:52]: `isLowerCase_toLower`

File: src/Std/Internal/Http/Internal/LowerCase.lean [hunk 66]
```diff
@@ -0,0 +1,115 @@
...
+  unfold IsLowerCase String.toLower
+  exact String.map_idempotent Char.toLower_toLower
+
+theorem empty_isLowerCase : IsLowerCase "" := by
+  native_decide
```
Comment (TwoFX) [inline src/Std/Internal/Http/Internal/LowerCase.lean:57]:
```suggestion
  simp [IsLowerCase, String.toLower]
```

File: src/Std/Internal/Http/Internal/LowerCase.lean [hunk 67]
```diff
@@ -0,0 +1,115 @@
...
+
+/--
+Proof that applying `toLower` to any string results in a string that
+satisfies the `IsLowerCase` predicate.
+-/
+theorem lower_isLowerCase {s : String} : IsLowerCase s.toLower := by
+  unfold IsLowerCase String.toLower
+  exact String.map_idempotent Char.toLower_toLower
+
+theorem empty_isLowerCase : IsLowerCase "" := by
```
Comment (TwoFX) [inline src/Std/Internal/Http/Internal/LowerCase.lean:56]:
```suggestion
theorem isLowerCase_empty : IsLowerCase "" := by
```

File: src/Std/Internal/Http/Internal/LowerCase.lean [hunk 68]
```diff
@@ -0,0 +1,115 @@
...
+  simpa [IsLowerCase, ByteArray.push, Array.all_push, And.intro h h₁]
+
+/--
+Transforms a `ByteArray` into a lowercase version, returning a `Subtype`
+containing the new array and a proof that it satisfies `IsLowerCase`.
+-/
+def IsLowerCase.toLowerCase (x : ByteArray) : { s : ByteArray // IsLowerCase s } :=
+  x.foldl (fun ⟨b, p⟩ c => ⟨b.push (toLower c), push p (toLower_isLower)⟩) ⟨ByteArray.empty, IsLowerCase.empty⟩
+
+end ByteArray
```
Comment (TwoFX) [inline src/Std/Internal/Http/Internal/LowerCase.lean:114]:
```suggestion
```

File: src/Std/Internal/Http/Internal/Map.lean [hunk 69]
```diff
@@ -0,0 +1,215 @@
...
+    { data := map.data.insert key ⟨newArr, by unfold newArr; simp⟩ }
+  else
+    { data := map.data.insert key ⟨#[value], by simp⟩ }
+
+/--
+Inserts a key with an array of values.
+-/
+@[inline]
+def insertMany (map : MultiMap α β) (key : α) (values : Array β) (p : values.size > 0) : MultiMap α β :=
+  if h : values.size > 0 then
```
Comment (TwoFX) [inline src/Std/Internal/Http/Internal/Map.lean:135]: Why are you checking again for something you are taking as a parameter?

File: src/Std/Internal/Http/Data/Headers.lean [hunk 70]
```diff
@@ -0,0 +1,335 @@
...
+  /--
+  The empty list is trivially present in any headers.
+  -/
+  | nil : HasAll h []
+
+  /--
+  If a string is in headers and the rest of the list satisfies HasAll,
+  then the whole list satisfies HasAll.
+  -/
+  | cons (member : In s h) (tail : HasAll h rest) : HasAll h (s :: rest)
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/Headers.lean:267]: This seems needlessly pedestrian to me. Why not just use `∀ s ∈ l, In s h` instead of this inductive type?

File: src/Std/Internal/Http/Data/URI/Encoding.lean [hunk 71]
```diff
@@ -0,0 +1,733 @@
...
+- `%GG` is invalid (percent followed by non-hex characters)
+-/
+def isValidPercentEncoding (ba : ByteArray) : Bool :=
+  let rec loop (i : Nat) : Bool :=
+    if h : i < ba.size then
+      let c := ba[i]'h
+      if c = '%'.toUInt8 then
+        -- Check that there are at least 2 more bytes
+        if h₁ : i + 1 < ba.size then
+          if h₂ : i + 2 < ba.size then
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/URI/Encoding.lean:129]: No need to have both checks here; the latter implies the former.

**Comment by algebraic-dev** [comment]
Closed because its several PRs right now


feat: add core HTTP data types #12126
feat: introduce Headers data type for HTTP #12127
feat: introduce URI data type for HTTP #12128
feat: introduce Body type class and some Body types for HTTP #12144
feat: introduce HTTP/1.1 protocol state machine #12146
feat: introduce HTTP/1.1 server #12151
